US07932270B2
To a mixture of 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinic acid (2.8 g, 7.76 mmol) in DMF (28 mL) was added HBTU (5.88 g, 15.51 mmol), HOBt (2.1 g, 15.51 mmol), then 3-aminomethylpyridine (1.68 g, 15.51 mmol). The reaction mixture was stirred at room temperature for 1 hr. The crude mixture was purified on RP-HPLC using a mixture of acetonitrile and H2O to give 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide as a pale yellow solid (3.0 g, 86%). LRMS (M+H+) m/z 452.2.

reactant | 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinic acid | 7.76 mmol, 2.8 g | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)O)C=C1)NCCC1=CC(=CC=C1)F | C21H16FN3O2
reactant | HBTU | 15.51 mmol, 5.88 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 15.51 mmol, 2.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-aminomethylpyridine | 15.51 mmol, 1.68 g | NCC=1C=NC=CC1 | C6H8N2
solvent | DMF | 28 mL | CN(C)C=O | C3H7NO
product | 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide | 3.0 g, 86% | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NCC=2C=NC=CC2)C=C1)NCCC1=CC(=CC=C1)F | C27H22FN5O
